US04343811
2-[1-Butyl-3-(4-fluoro-phenyl)-2-methyl-1H-indole-5-yloxy]-2-methyl-propanoic acid ethylester
The above compound was prepared from 1-butyl-3-(4-fluoro-phenyl)-2-methyl-1H-indole-5-ol and 2-bromo-2-methylpropanoic acid ethylester using a procedure analogous to that of Example 10.

reactant | 1-butyl-3-(4-fluoro-phenyl)-2-methyl-1H-indole-5-ol | C(CCC)N1C(=C(C2=CC(=CC=C12)O)C1=CC=C(C=C1)F)C | C19H20FNO
reactant | 2-bromo-2-methylpropanoic acid ethylester | C(C)OC(C(C)(C)Br)=O | C6H11BrO2
product | 2-[1-Butyl-3-(4-fluoro-phenyl)-2-methyl-1H-indole-5-yloxy]-2-methyl-propanoic acid ethylester | C(C)OC(C(C)(C)OC=1C=C2C(=C(N(C2=CC1)CCCC)C)C1=CC=C(C=C1)F)=O | C25H30FNO3
